US06706723B2
To a mixture of 4-(4-Hydroxy-phenoxy)-benzoic acid (0.25 g, 1.09 mmol), triethylamine (0.15 mL, 1.07 mmol) and tetrahydrofuran (THF) (5.0 mL) at 0° C. was added methylchloroformate (0.084 mL, 0.10 g, 1.1 mmol). After stirring for 15 minutes, excess methylamine was added via a sparge tube, and stirring was continued for 10 minutes. The mixture was diluted with water, extracted three times with ethyl acetate, and the combined organic phases were dried over Na2SO4, filtered and concentrated in vacuo, affording 1 4-(4-Hydroxy-phenoxy)-N-methyl-benzamide as a colorless syrup.

reactant | 4-(4-Hydroxy-phenoxy)-benzoic acid | 1.09 mmol, 0.25 g | OC1=CC=C(OC2=CC=C(C(=O)O)C=C2)C=C1 | C13H10O4
reactant | triethylamine | 1.07 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | methylchloroformate | 1.1 mmol, 0.084 mL, 0.10 g | COC(=O)Cl | C2H3ClO2
reactant | methylamine | CN | CH5N
solvent | water | O | H2O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | 4-(4-Hydroxy-phenoxy)-N-methyl-benzamide | OC1=CC=C(OC2=CC=C(C(=O)NC)C=C2)C=C1 | C14H13NO3
